US07378414B2
2-mercapto-1H-benzimidazole-5-carboxylic acid
A mixture of 3,4-diaminobenzoic acid (1.52 g, 10 mmol), carbon disulfide (0.837 g, 11 mmol), and potassium hydroxide (0.617 g, 11 mmol) in water (30 mL) and ethanol (8 mL) was heated under reflux for 16 h and then cooled to rt. The reaction mixture was evaporated in vacuo and then taken up in water (25 mL). The resulting mixture was neutralized by the addition of 1 N HCl and the resulting brown solid isolated by vacuum filtration, washed with water and air dried to provide the title compound (1.15 g, 59% yield). 1H NMR (300 MHz, DMSO-d6) δ ppm 7.20 (d, J=8.09 Hz, 1 H) 7.66 (s, 1 H) 7.76 (dd, J=8.46, 1.47 Hz, 1 H) 12.76 (s, 1 H) 12.82 (s, 1 H). MS (ESI−) m/z 193.0 (M−H)−.

reactant | 3,4-diaminobenzoic acid | 10 mmol, 1.52 g | NC=1C=C(C(=O)O)C=CC1N | C7H8N2O2
reactant | carbon disulfide | 11 mmol, 0.837 g | C(=S)=S | CS2
reactant | potassium hydroxide | 11 mmol, 0.617 g | [OH-].[K+]
solvent | water | 30 mL | O | H2O
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 2-mercapto-1H-benzimidazole-5-carboxylic acid | 1.15 g, 59% yield | SC1=NC2=C(N1)C=CC(=C2)C(=O)O | C8H6N2O2S
